US05114958
To a room temperature solution of 2-(2,6-dichloro-3-methylanilino)benzamide oxime (585 mg, 1.89 mmols) in 5 mL of pyridine is added ethyl chloroformate (250 μL, 2.62 mmols). The solution is heated at reflux for 1 hour, cooled, and concentrated in vacuo. Flash chromatography eluting with 2:1 hexane: ethyl acetate provides 295 mg (47%) of 3-[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]-1,2,4-oxadiazol-5(4H)-one as a white solid;

reactant | 2-(2,6-dichloro-3-methylanilino)benzamide oxime | 1.89 mmols, 585 mg | ClC1=C(NC2=C(C(N)=NO)C=CC=C2)C(=CC=C1C)Cl | C14H13Cl2N3O
reactant | ethyl chloroformate | 2.62 mmols, 250 μL | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 3-[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]-1,2,4-oxadiazol-5(4H)-one | 295 mg, 47% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C1=NOC(N1)=O | C15H11Cl2N3O2
